US04925652
Under agitation, cooling between -5° and 0° C., and covering with argon, 68.94 g (175 mmol) of 3,5-dibromo-2,2,6,6-tetramethylpiperidin-4-one hydrobromide is added in portions to a solution of 22.93 g (175 mmol) of (2,2-dimethyl-1,3-dioxolan-4-yl)methylamine and 58.9 g (525 mmol) of potassium tert-butylate in 700 ml of isopropanol. A white paste is thus obtained which is stirred for one hour without cooling, suctioned off from the solid matter, and concentrated to dryness under vacuum. The residue is distributed between dichloromethane and water. The organic phase is dried over sodium sulfate and concentrated to dryness under vacuum. The residue is crystallized. After recrystallization from pentane, 30.1 g (60.9% of theory) of 2,2,5,5-tetramethyl-3-pyrroline-3-carboxylic acid (2,2-dimethyl-1,3-dioxolan-4-ylmethyl)amide is obtained, mp 55°-57° C.

reactant | 3,5-dibromo-2,2,6,6-tetramethylpiperidin-4-one hydrobromide | 175 mmol, 68.94 g | Br.BrC1C(NC(C(C1=O)Br)(C)C)(C)C
reactant | (2,2-dimethyl-1,3-dioxolan-4-yl)methylamine | 175 mmol, 22.93 g | CC1(OCC(O1)CN)C | C6H13NO2
reactant | potassium tert-butylate | 525 mmol, 58.9 g | CC(C)(C)[O-].[K+]
solvent | isopropanol | 700 ml | C(C)(C)O | C3H8O
product | 2,2,5,5-tetramethyl-3-pyrroline-3-carboxylic acid (2,2-dimethyl-1,3-dioxolan-4-ylmethyl)amide | 30.1 g, 60.9% | CC1(OCC(O1)CNC(=O)C=1C(NC(C1)(C)C)(C)C)C | C15H26N2O3
